US06589984B1
To a solution of 4-acetyloxy-6-(6-(benzyloxy)benzofuran-2-yl)-3,5-dimethyl-2H-pyran-2-one (500 mg) in EtOH (50 ml) and 1,4-dioxane (50 ml) there was added 10% Pd/C (100 mg), and the mixture was vigorously stirred at room temperature for 3 hours under a hydrogen gas atmosphere. The reaction solution was celite filtered, and then the filtrate was concentrated under reduced pressure and the residue was purified by silica gel column chromatography (n-hexane/AcOEt=1/1) to obtain 4-acetyloxy-3,5-dimethyl-6-(6-hydroxybenzofuran-2-yl)-2H-pyran-2-one.

reactant | 4-acetyloxy-6-(6-(benzyloxy)benzofuran-2-yl)-3,5-dimethyl-2H-pyran-2-one | 500 mg | C(C)(=O)OC1=C(C(OC(=C1C)C=1OC2=C(C1)C=CC(=C2)OCC2=CC=CC=C2)=O)C | C24H20O6
solvent | EtOH | 50 ml | CCO | C2H6O
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 4-acetyloxy-3,5-dimethyl-6-(6-hydroxybenzofuran-2-yl)-2H-pyran-2-one | C(C)(=O)OC1=C(C(OC(=C1C)C=1OC2=C(C1)C=CC(=C2)O)=O)C | C17H14O6
